US09233979B2
Step 1: Synthesis of 6-chloro-N,N-bis(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine
At 0° C., to a solution of 6-chloro-N-(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (2.0 g, 3.78 mmol) in anhydrous THF (30 mL) was added LiHMDS (1.0 M solution in Toluene, 7.56 mL, 7.56 mmol) and the contents were stirred at the same temperature. After 15 min, PMBBr (0.92 g, 4.53 mmol) was added at the same temperature and the contents were allowed to warm to ambient temperature. After 3 h, H2O (10 mL) was added and stirred for 5 min. The organic contents were extracted with EtOAc (3×40 mL) and the EtOAc layer washed with brine (1×20 mL), dried over anhydrous Na2SO4 and the solvents were removed under reduced pressure. The residue thus obtained was purified by a filter column to afford the title compound (1.0 g, 41% yield). MS ES calc'd. for C41H35ClN4O2 [M+H]+ 651. Found 651.

reactant | 6-chloro-N-(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 3.78 mmol, 2.0 g | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NCC2=CC=C(C=C2)OC | C33H27ClN4O
reactant | LiHMDS | 7.56 mmol, 1.0 M, 7.56 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | PMBBr | 4.53 mmol, 0.92 g | COC1=CC=C(C=C1)CBr | C8H9BrO
reactant | H2O | 10 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-chloro-N,N-bis(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 1.0 g, 41% yield | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C41H35ClN4O2
